US09376443B2
2-Bromomethyl-6-(1-hydroxy-1-methylethyl)pyridine
To a solution of 2-hydroxymethyl-6-(1-hydroxy-1-methylethyl)pyridine (5.1 g, 30.5 mmol) in dicholoromethane (300 mL) was added carbon tetrabromide (8.81 g, 33.6 mmol) and triphenylphosphine (11.14 g, 33.6 mmol). The reaction was stirred at ambient temperature overnight then poured into a saturated solution of sodium bicarbonate. The organic layer was separated, concentrated to dryness and purified by column chromatography, eluting with a gradient of hexane to 3:1 hexane:ethyl acetate. The title compound (5.21 g, 74%) was obtained as a colourless oil; LC-MS Retention time 2.08 min, (M+H)+ 230, 232

reactant | 2-hydroxymethyl-6-(1-hydroxy-1-methylethyl)pyridine | 30.5 mmol, 5.1 g | OCC1=NC(=CC=C1)C(C)(C)O | C9H13NO2
reactant | carbon tetrabromide | 33.6 mmol, 8.81 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 33.6 mmol, 11.14 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 2-Bromomethyl-6-(1-hydroxy-1-methylethyl)pyridine | 5.21 g, 74% | BrCC1=NC(=CC=C1)C(C)(C)O | C9H12BrNO
